US03932453
5-chloro-3-methyl-1-phenyl-4-nitropyrazole
A solution of 9.6 g (0.05 mole) of 5-chloro-3-methyl-1-phenylpyrazole and 25 ml of acetic anhydride was added at 10°C to a solution of acetyl nitrate prepared from 25 ml of 90% nitric acid and 10 ml of acetic anhydride. The solution was stirred 2 hours at 20°-30°C and carefully poured onto ice water. The solid was filtered off and washed with cold water. One recrystallization from ethanol gave long white needles of product.

reactant | 5-chloro-3-methyl-1-phenylpyrazole | 0.05 mole, 9.6 g | ClC1=CC(=NN1C1=CC=CC=C1)C | C10H9ClN2
reactant | acetyl nitrate | [N+](=O)(OC(C)=O)[O-] | C2H3NO4
reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 25 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-chloro-3-methyl-1-phenyl-4-nitropyrazole | ClC1=C(C(=NN1C1=CC=CC=C1)C)[N+](=O)[O-] | C10H8ClN3O2
